US07067529B2
To a stirred solution of 6-(3-hydroxy-propoxy)-1-(3-ethoxy-benzoyl)-7-methoxy-isoquinoline-4-carbaldehyde (40 mg, 0.10 mmol) in pyridine (8 mL) was added acetic anhydride (0.4 mL). The reaction mixture was stirred at room temperature for 15 hrs. The mixture was concentrated in vacuo to afford 6-(3-acetoxy-propoxy)-1-(3-ethoxy-benzoyl)-7-methoxy-isoquinoline-4-carbaldehyde (60 mg, 99% yield). The crude product was used without further purification.

reactant | 6-(3-hydroxy-propoxy)-1-(3-ethoxy-benzoyl)-7-methoxy-isoquinoline-4-carbaldehyde | 0.10 mmol, 40 mg | OCCCOC=1C=C2C(=CN=C(C2=CC1OC)C(C1=CC(=CC=C1)OCC)=O)C=O | C23H23NO6
reactant | acetic anhydride | 0.4 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | 6-(3-acetoxy-propoxy)-1-(3-ethoxy-benzoyl)-7-methoxy-isoquinoline-4-carbaldehyde | 60 mg, 99% yield | C(C)(=O)OCCCOC=1C=C2C(=CN=C(C2=CC1OC)C(C1=CC(=CC=C1)OCC)=O)C=O | C25H25NO7
